US04521422
A mixture of 0.10 mole of 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one and 0.20 mole of p-toluenesulfonic acid in 150 ml of anhydrous ethanol was refluxed for 10 hours. The solvent was removed and the residue partitioned between water and dichloromethane. The organic layer was dried over magnesium sulfate and the solvent removed, giving 3-ethoxy-1-(3-pyridinyl)-2-propen-1-one.

reactant | 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one | 0.10 mole | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | p-toluenesulfonic acid | 0.20 mole | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 3-ethoxy-1-(3-pyridinyl)-2-propen-1-one | C(C)OC=CC(=O)C=1C=NC=CC1 | C10H11NO2
